US05332757
Using an analogous procedure to that described in Example 43, 4'-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-ylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yl-thio]acetophenone oxime in 75% yield, m.p. 237°-240° C.;

reactant | 4'-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-ylthio]acetophenone | NC1=NC(=CC(=N1)SC1=CC=C(C=C1)C(C)=O)C1(CCOCC1)OC | C18H21N3O3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yl-thio]acetophenone oxime | 75% yield | NC1=NC(=CC(=N1)SC1=CC=C(C=C1)/C(/C)=N/O)C1(CCOCC1)OC | C18H22N4O3S
